US06620811B2
To a stirred solution of 585 mg (theoretically max 1.30 mmol) crude 2-cyclohex-1-enyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide in 5 ml methanol and 10 ml dichloromethane was added 500 mg 10% palladium on charcoal and the mixture was then stirred for 16 h at room temperature under an atmosphere of hydrogen. The mixture was then filtered, washing with dichloromethane, and the filtrate concentrated in vacuo. Flash chromatography (1/19 methanol/dichloromethane) followed by trituration in ether and pentane afforded 125 mg (21%) 2-cyclohexyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide as an off-white crystalline solid.

reactant | 2-cyclohex-1-enyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | C1(=CCCCC1)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C24H26N4O3S
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | 2-cyclohexyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 125 mg, 21% | C1(CCCCC1)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C24H28N4O3S
